US06770122B2
1-Hexyl-2-ethyl-4-methylimidazole was prepared in the following manner. All manipulations were performed under a nitrogen atmosphere. 2-Ethyl-4-methylimidazole (1.0 g) was dissolved in 10 mL THF. Sodium hydride (0.218 g) was added as a solid. An additional 10 mL of solvent was used to wash the hydride into the flask. There was a vigorous evolution of hydrogen. Mixture was stirred at room temperature overnight. 1-Bromohexane (1.568 mL) was added all at once. Mixture was stirred over weekend at room temperature and then refluxed for several hours. Reaction mixture was cooled and then filtered through Celite 545. Solvent was stripped under vacuum to yield viscous, yellow oil. Proton NMR spectrum (E102868-78) is consistent with indicated formulation and starting 1-bromohexane. This mixture was used without purification.

reactant | 2-Ethyl-4-methylimidazole | 1.0 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | Sodium hydride | 0.218 g | [H-].[Na+]
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Hexyl-2-ethyl-4-methylimidazole | C(CCCCC)N1C(=NC(=C1)C)CC | C12H22N2
